US05672617
76.0 g of ethyl 3-cyclohexylpropionate are initially introduced into 200 ml of dimethylformamide at 0° to 5° C., and 24.6 g of sodium hydride (80% strength in oil) are added. After dropwise addition of 235 ml of ethyl formate, the mixture is stirred at 25° C. for 24 hours. The batch is stirred into 1.6 l of 10% strength HCl, extracted with 800 ml of methylene chloride and distilled. 34.2 g (41%) of ethyl 2-formyl-3-cyclohexylpropionate of boiling point 91°-95° C./1.25 mm are obtained.

reactant | ethyl 3-cyclohexylpropionate | 76.0 g | C1(CCCCC1)CCC(=O)OCC | C11H20O2
reactant | sodium hydride | 24.6 g | [H-].[Na+]
reactant | ethyl formate | 235 ml | C(=O)OCC | C3H6O2
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl 2-formyl-3-cyclohexylpropionate | 34.2 g, 41% | C(=O)C(C(=O)OCC)CC1CCCCC1 | C12H20O3
